US04230719
To a mixture of 1.2 g (0.05 mole) of magnesium turnings and 50 ml of anhydrous tetrahydrofuran was added under a nitrogen stream one drop of ethyl bromide, followed by adding 10 g (0.0395 mole) of 4-(3-methyl-2-thienyl)-1-bromobenzene (boiling point 171°-175° C./16-17 mmHg). After refluxing for 30 minutes, the mixture was cooled. To the mixture was added a solution of 2.8 g (0.0205 mole) of anhydrous zinc chloride in 50 ml of anhydrous tetrahydrofuran, and the mixture was stirred at room temperature for 3 hours. To the mixture was added 7.2 g (0.0398 mole) of ethyl 2-bromopropionate. After having been stirred at 50° to 60° C. for one hour, the mixture was freed from the solvent by distillation under reduced pressure. The residue was mixed with 50 ml of 2 N hydrochloric acid and 50 ml of benzene. The organic layer was separated, washed with water, and freed from the solvent by distillation under reduced pressure. The residue was mixed with 50 ml of an ethanol solution containing 2.3 g of sodium hydroxide, heated under reflux for 3 hours, and then freed from the ethanol by distillation. The residue was mixed with 100 ml of water and 50 ml of benzene. The aqueous layer was separated, neutralized with hydrochloric acid, and the liberated oily substance was extracted with cyclohexane. The extract solution was dried over anhydrous magnesium sulfate and freed from the solvent by distillation under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: cyclohexane) to obtain 3.2 g (32.9% yield) of intended 2-[4-(3-methyl-2-thienyl)phenyl]propionic acid.

reactant | magnesium | 0.05 mole, 1.2 g | [Mg] | Mg
reactant | 4-(3-methyl-2-thienyl)-1-bromobenzene | 0.0395 mole, 10 g | CC1=C(SC=C1)C1=CC=C(C=C1)Br | C11H9BrS
reactant | ethyl 2-bromopropionate | 0.0398 mole, 7.2 g | BrC(C(=O)OCC)C | C5H9BrO2
catalyst | ethyl bromide | one drop | C(C)Br | C2H5Br
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.0205 mole, 2.8 g | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[4-(3-methyl-2-thienyl)phenyl]propionic acid | 3.2 g, 32.9% yield | CC1=C(SC=C1)C1=CC=C(C=C1)C(C(=O)O)C | C14H14O2S
